US07141586B2
N-(cis-4-Aminocyclohexyl)-2-chloro-5-fluoronicotinamide (837 mg, 2.72 mmol) and triethylamine (1.14 ml, 8.15 mmol) were dissolved in dimethylformamide (20 ml) and 2-methoxy acetic acid (208 μl, 2.72 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (573 mg, 2.99 mmol) and 1-hydroxybenzotriazole (404 mg, 2.99 mmol) were added. The reaction was stirred under nitrogen at room temperature for 18 h then partitioned between water and ethyl acetate. The organic phase was dried over MgSO4 and the solvent was removed under reduced pressure. The residue was purified by flash column chromatography on silica gel eluting using dichloromethane:methanol (96:4 to 91:9) as eluant to give 2-chloro-5-fluoro-N-{cis-4-[(methoxyacetyl)amino]cyclohexyl}nicotinamide (550 mg).

reactant | N-(cis-4-Aminocyclohexyl)-2-chloro-5-fluoronicotinamide | 2.72 mmol, 837 mg | N[C@H]1CC[C@H](CC1)NC(C1=C(N=CC(=C1)F)Cl)=O | C12H15ClFN3O
reactant | triethylamine | 8.15 mmol, 1.14 ml | C(C)N(CC)CC | C6H15N
reactant | 2-methoxy acetic acid | 2.72 mmol, 208 μl | COCC(=O)O | C3H6O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.99 mmol, 573 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 2.99 mmol, 404 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-chloro-5-fluoro-N-{cis-4-[(methoxyacetyl)amino]cyclohexyl}nicotinamide | 550 mg | ClC1=C(C(=O)N[C@@H]2CC[C@@H](CC2)NC(COC)=O)C=C(C=N1)F | C15H19ClFN3O3
